US07786108B2
Step 3. Preparation of 6-Amino-1,3-dihydro-isobenzofuran-5-carboxylic acid methyl ester
Add palladium (II) acetate (2.8 mmol), 1,1-bis(diphenylphosphino)ferrocene (2.8 mmol), potassium carbonate (86.1 mmol), and triethyl amine (28.7 mmol) to a solution of 6-iodo-1,3-dihydro-isobenzofuran-5-ylamine (28.7 mmol) in acetonitrile (150 mL) and methanol (75 mL). Using a balloon of carbon monoxide, vacuum purge the reaction mixture several times, then heat to 70° C. After heating under a balloon of carbon monoxide for 1.5 h, cool the reaction to room temperature. Dilute the reaction with ethyl acetate (500 mL), wash with water (3×100 mL), followed by brine. Dry the organic phase over sodium sulfate, filter, and remove the solvent under vacuum. Chromatograph the product over silica gel, eluting with ethyl acetate/hexane (5-35%) to provide the title compound as an off white solid. 1H NMR (CDCl3, 400 MHz) δ 3.85 (s, 3H), 4.97 (s, 4H), 6.54 (s, 1H), 7.71 (s, 1H).

reactant | potassium carbonate | 86.1 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | triethyl amine | 28.7 mmol | C(C)N(CC)CC | C6H15N
reactant | 6-iodo-1,3-dihydro-isobenzofuran-5-ylamine | 28.7 mmol | IC1=C(C=C2COCC2=C1)N | C8H8INO
reactant | carbon monoxide | [C]=O | CO
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | methanol | 75 mL | CO | CH4O
catalyst | palladium (II) acetate | 2.8 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 2.8 mmol | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 6-Amino-1,3-dihydro-isobenzofuran-5-carboxylic acid methyl ester | COC(=O)C=1C=C2COCC2=CC1N | C10H11NO3
